US08735362B2
To a solution of 3-Trifluoromethoxy-benzeneboronic acid (2.5 g) in a 2:1 mixture THF/H2O (36 ml) was added 2-Bromo-3,3,3-trifluoro-propene (3.1 ml), potassium carbonate (3.35 g), then Bis(triphenylphosphine)palladium(II) dichloride (169 mg). The reaction mixture was stirred at 60° C. for 7 hours. The solution was allowed to cool to room temperature then filtered on a Celite pad. The filtrate was concentrated in vacuo and the residue was then dissolved with ethyl acetate, extracted with water, dried over magnesium sulfate and concentrated. The residue was purified by chromatography on silica gel to give 1-Trifluoromethoxy-3-(1-trifluoromethyl-vinyl)-benzene (1.23 g). 19F-NMR (CDCl3, 75 MHz): −57.87 ppm and −64.94 ppm.

reactant | 3-Trifluoromethoxy-benzeneboronic acid | 2.5 g | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | 2-Bromo-3,3,3-trifluoro-propene | 3.1 ml | BrC(=C)C(F)(F)F | C3H2BrF3
reactant | potassium carbonate | 3.35 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 169 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF H2O | 36 ml | C1CCOC1.O
product | 1-Trifluoromethoxy-3-(1-trifluoromethyl-vinyl)-benzene | 1.23 g | FC(OC1=CC(=CC=C1)C(=C)C(F)(F)F)(F)F | C10H6F6O
